US07579336B2
3 g of methyl TMZ-8-carboxylate was weighed, pulverized into fine powder, and mixed with 20 g of water, 50 g of oleic acid, 30 g of VE TPGS and an appropriate amount of citric acid to form the microemulsion by grinding. An appropriate amount of rate-moderated membrane (copolymer of ethylene and vinyl acetate) and PSAs (polysiloxane pressure-sensitive gum) were added. The resulting mixture was stirred well, degassed by heat preservation using water bath, and spread on a polythene matrix. Dried and cut to 50 patches to obtain object product.

reactant | oleic acid | 50 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | TPGS | CC1=C2C(=C(C(=C1C)OC(=O)CCC(=O)OCCO)C)CCC(O2)(C)CCCC(C)CCCC(C)CCCC(C)C | C35H58O6
reactant | water | 20 g | O | H2O
product | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
